US07279481B2
[2-(Methoxy)-3-nitrophenyl]acetaldehyde
To a stirred solution of 2-(methoxy)-3-nitrobenzaldehyde in THF were added 18-Crown6 (0.2 eq), (methoxymethyl)triphenylphosphonium chloride (2 eq) and potassium carbonate (6.5 eq). The resulting suspension was warmed to 60° C. for 2 hours then cooled to room temperature and filtered. The filtrate was concentrated under vacuum and purified by chromatography on a silica cartridge (eluent cyclohexane-ethyl acetate, 9:1) to give a mixture of 2-(methoxy)-1-[(E)-2-(methoxy)ethenyl]-3-nitrobenzene and 2-(methyloxy)-1-[(Z)-2-(methyloxy)ethenyl]-3-nitrobenzene. The alkene mixture was dissolved in THF and 6N hydrochloric acid (1:1), and stirred for 1 hour. The solution was made basic with aqueous sodium carbonate solution and extracted with DCM. The organic layer was washed (water, brine), dried (sodium sulfate) and concentrated under vacuum to give the title compound (54% overall yield).

reactant | 2-(methoxy)-3-nitrobenzaldehyde | COC1=C(C=O)C=CC=C1[N+](=O)[O-] | C8H7NO4
reactant | 18-Crown6 | 0.2 eq | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | (methoxymethyl)triphenylphosphonium chloride | 2 eq | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium carbonate | 6.5 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(methoxy)-1-[(E)-2-(methoxy)ethenyl]-3-nitrobenzene | COC1=C(C=CC=C1[N+](=O)[O-])\C=C\OC | C10H11NO4
reactant | 2-(methyloxy)-1-[(Z)-2-(methyloxy)ethenyl]-3-nitrobenzene | COC1=C(C=CC=C1[N+](=O)[O-])\C=C/OC | C10H11NO4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | hydrochloric acid | 6N | Cl | ClH
product | [2-(Methoxy)-3-nitrophenyl]acetaldehyde | 54% | COC1=C(C=CC=C1[N+](=O)[O-])CC=O | C9H9NO4
